US04086423
Aqueous sodium hydroxide (10 ml of a 2.5 N solution) is added dropwise over 15 minutes to a stirring solution of methyl N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycinate (7.46 g, 25 mMol) in methanol (5 ml). The methanol is removed under reduced pressure and the aqueous residue is lyophilized to give sodium N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycinate.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycinate | 25 mMol, 7.46 g | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C(=O)OC)OC)C=C1 | C12H14N2O7
solvent | methanol | 5 ml | CO | CH4O
product | sodium N-(p-nitrobenzyloxycarbonyl)-α-methoxyglycinate | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C(=O)[O-])OC)C=C1.[Na+] | InChI=1S/C11H12N2O7.Na/c1-19-9(10(14)15)12-11(16)20-6-7-2-4-8(5-3-7)13(17)18;/h2-5,9H,6H2,1H3,(H,12,16)(H,14,15);/q;+1/p-1
